* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.5642986598272026
Fd1_1 0 s1 V1 28.214932991360136
Gr1_1_1 0 s1 x1_a1 0 -7994178568728314.0
Gr2_re_1_1 0 s1 x2_re_a1 0 -1.3079792401628728e+18
Gr2_im_1_1 0 s1 x2_im_a1 0 1.4523469115421616e+17
Gr3_re_1_1 0 s1 x3_re_a1 0 -1.925524073465539e+19
Gr3_im_1_1 0 s1 x3_im_a1 0 -3.344346531011447e+18
Gr4_re_1_1 0 s1 x4_re_a1 0 4.138674723787318e+20
Gr4_im_1_1 0 s1 x4_im_a1 0 1.4625210289253424e+20
Gr5_re_1_1 0 s1 x5_re_a1 0 1.011314095031801e+20
Gr5_im_1_1 0 s1 x5_im_a1 0 -7.191241373925071e+19
Gr6_1_1 0 s1 x6_a1 0 -2.7235024713537953e+22
Gr7_1_1 0 s1 x7_a1 0 1.3000698985888958e+22
Gr8_1_1 0 s1 x8_a1 0 -1.48717889527394e+21
Gr9_1_1 0 s1 x9_a1 0 2.616477687183358e+22
Gr10_re_1_1 0 s1 x10_re_a1 0 -4.606495084149871e+21
Gr10_im_1_1 0 s1 x10_im_a1 0 5.587098998145729e+21
Gr11_1_1 0 s1 x11_a1 0 -7.464659972795926e+21
Gr12_1_1 0 s1 x12_a1 0 -6.886812403979758e+20
Gr13_1_1 0 s1 x13_a1 0 1.633531614791065e+21
Gr14_1_1 0 s1 x14_a1 0 2.1239184517150141e+21
Gr15_1_1 0 s1 x15_a1 0 2.17674573527398e+21
Gd1_2 0 s1 p2 0 0.43034780883548496
Fd1_2 0 s1 V2 21.517390441774246
Gr1_1_2 0 s1 x1_a2 0 -6096814950853487.0
Gr2_re_1_2 0 s1 x2_re_a2 0 -9.968757312147457e+17
Gr2_im_1_2 0 s1 x2_im_a2 0 1.108269287438756e+17
Gr3_re_1_2 0 s1 x3_re_a2 0 -1.4677466123269603e+19
Gr3_im_1_2 0 s1 x3_im_a2 0 -2.547160312051097e+18
Gr4_re_1_2 0 s1 x4_re_a2 0 3.154763475809495e+20
Gr4_im_1_2 0 s1 x4_im_a2 0 1.1146068996146004e+20
Gr5_re_1_2 0 s1 x5_re_a2 0 7.708248546590441e+19
Gr5_im_1_2 0 s1 x5_im_a2 0 -5.481597193476263e+19
Gr6_1_2 0 s1 x6_a2 0 -2.075993498947096e+22
Gr7_1_2 0 s1 x7_a2 0 9.909941333319458e+21
Gr8_1_2 0 s1 x8_a2 0 -1.1337253267690144e+21
Gr9_1_2 0 s1 x9_a2 0 1.994402690835895e+22
Gr10_re_1_2 0 s1 x10_re_a2 0 -3.511277239244832e+21
Gr10_im_1_2 0 s1 x10_im_a2 0 4.258777681037433e+21
Gr11_1_2 0 s1 x11_a2 0 -5.689888666126016e+21
Gr12_1_2 0 s1 x12_a2 0 -5.249434973389588e+20
Gr13_1_2 0 s1 x13_a2 0 1.2451526540859398e+21
Gr14_1_2 0 s1 x14_a2 0 1.6189479083292623e+21
Gr15_1_2 0 s1 x15_a2 0 1.65921526764099e+21
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.7977174659352716e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.2505849085873846e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 19136766678.986748
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -19136766678.986748
Rp2_im_im_a1 0 x2_im_a1 1.2505849085873846e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 7.9046985011375e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 14734984367.47144
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -14734984367.47144
Rp3_im_im_a1 0 x3_im_a1 7.9046985011375e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.0583282721004842e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 9111928488.448862
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -9111928488.448862
Rp4_im_im_a1 0 x4_im_a1 1.0583282721004842e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.11924605009851e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 10186363380.621254
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -10186363380.621254
Rp5_im_im_a1 0 x5_im_a1 2.11924605009851e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.4807330757520826e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.1635146849413708e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.608444545338693e-10
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 2.715182214758036e-10
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 6.080742927348302e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 396790148.32026064
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -396790148.32026064
Rp10_im_im_a1 0 x10_im_a1 6.080742927348302e-10
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 4.74361897916508e-10
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 9.29736767594267e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 2.7433479309654514e-09
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 1.954285832852828e-09
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 1.796042704427307e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.43034780883548496
Fd2_1 0 s2 V1 21.517390441774246
Gr1_2_1 0 s2 x1_a1 0 -6096815316293685.0
Gr2_re_2_1 0 s2 x2_re_a1 0 -9.96875868335857e+17
Gr2_im_2_1 0 s2 x2_im_a1 0 1.1082691559450037e+17
Gr3_re_2_1 0 s2 x3_re_a1 0 -1.4677467919474794e+19
Gr3_im_2_1 0 s2 x3_im_a1 0 -2.547160952195928e+18
Gr4_re_2_1 0 s2 x4_re_a1 0 3.154763872072922e+20
Gr4_im_2_1 0 s2 x4_im_a1 0 1.1146070850750451e+20
Gr5_re_2_1 0 s2 x5_re_a1 0 7.708249675285394e+19
Gr5_im_2_1 0 s2 x5_im_a1 0 -5.481597842176486e+19
Gr6_2_1 0 s2 x6_a1 0 -2.0759937796195903e+22
Gr7_2_1 0 s2 x7_a1 0 9.909942631844064e+21
Gr8_2_1 0 s2 x8_a1 0 -1.1337254329411355e+21
Gr9_2_1 0 s2 x9_a1 0 1.9944029641991267e+22
Gr10_re_2_1 0 s2 x10_re_a1 0 -3.511277726996661e+21
Gr10_im_2_1 0 s2 x10_im_a1 0 4.258778244971135e+21
Gr11_2_1 0 s2 x11_a1 0 -5.689889462443761e+21
Gr12_2_1 0 s2 x12_a1 0 -5.249435696037715e+20
Gr13_2_1 0 s2 x13_a1 0 1.2451528265670549e+21
Gr14_2_1 0 s2 x14_a1 0 1.6189481327085462e+21
Gr15_2_1 0 s2 x15_a1 0 1.6592154976473787e+21
Gd2_2 0 s2 p2 0 0.5639962316403178
Fd2_2 0 s2 V2 28.19981158201589
Gr1_2_2 0 s2 x1_a2 0 -7989910038784307.0
Gr2_re_2_2 0 s2 x2_re_a2 0 -1.3072817246267802e+18
Gr2_im_2_2 0 s2 x2_im_a2 0 1.4515722618243325e+17
Gr3_re_2_2 0 s2 x3_re_a2 0 -1.9244970497162633e+19
Gr3_im_2_2 0 s2 x3_im_a2 0 -3.3425639231237356e+18
Gr4_re_2_2 0 s2 x4_re_a2 0 4.136467118659157e+20
Gr4_im_2_2 0 s2 x4_im_a2 0 1.4617409485769453e+20
Gr5_re_2_2 0 s2 x5_re_a2 0 1.0107746389955786e+20
Gr5_im_2_2 0 s2 x5_im_a2 0 -7.187405884784675e+19
Gr6_2_2 0 s2 x6_a2 0 -2.7220496290524034e+22
Gr7_2_2 0 s2 x7_a2 0 1.299376388892912e+22
Gr8_2_2 0 s2 x8_a2 0 -1.4863857324439194e+21
Gr9_2_2 0 s2 x9_a2 0 2.6150819265747672e+22
Gr10_re_2_2 0 s2 x10_re_a2 0 -4.6040377130161867e+21
Gr10_im_2_2 0 s2 x10_im_a2 0 5.584118677350045e+21
Gr11_2_2 0 s2 x11_a2 0 -7.46067785952466e+21
Gr12_2_2 0 s2 x12_a2 0 -6.883138642500543e+20
Gr13_2_2 0 s2 x13_a2 0 1.6326601955040263e+21
Gr14_2_2 0 s2 x14_a2 0 2.1227854310940305e+21
Gr15_2_2 0 s2 x15_a2 0 2.1755845331561648e+21
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.7977174659352716e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.2505849085873846e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 19136766678.986748
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -19136766678.986748
Rp2_im_im_a2 0 x2_im_a2 1.2505849085873846e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 7.9046985011375e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 14734984367.47144
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -14734984367.47144
Rp3_im_im_a2 0 x3_im_a2 7.9046985011375e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.0583282721004842e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 9111928488.448862
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -9111928488.448862
Rp4_im_im_a2 0 x4_im_a2 1.0583282721004842e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.11924605009851e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 10186363380.621254
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -10186363380.621254
Rp5_im_im_a2 0 x5_im_a2 2.11924605009851e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.4807330757520826e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.1635146849413708e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.608444545338693e-10
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 2.715182214758036e-10
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 6.080742927348302e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 396790148.32026064
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -396790148.32026064
Rp10_im_im_a2 0 x10_im_a2 6.080742927348302e-10
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 4.74361897916508e-10
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 9.29736767594267e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 2.7433479309654514e-09
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 1.954285832852828e-09
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 1.796042704427307e-09
.ENDS s_equivalent
