* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.023148743893137765
Fd1_1 0 s1 V1 1.1574371946568884
Gr1_re_1_1 0 s1 x1_re_a1 0 351497321657604.8
Gr1_im_1_1 0 s1 x1_im_a1 0 -409017199990292.75
Gr2_re_1_1 0 s1 x2_re_a1 0 3.299353671797543e+16
Gr2_im_1_1 0 s1 x2_im_a1 0 -8843484898421820.0
Gr3_re_1_1 0 s1 x3_re_a1 0 -3.7689599569632435e+17
Gr3_im_1_1 0 s1 x3_im_a1 0 -5.519062428748749e+16
Gr4_1_1 0 s1 x4_a1 0 -7.372758895317589e+18
Gr5_1_1 0 s1 x5_a1 0 1.6897530491646263e+20
Gr6_re_1_1 0 s1 x6_re_a1 0 1.3372412506464967e+20
Gr6_im_1_1 0 s1 x6_im_a1 0 -2.3072141734531744e+20
Gr7_1_1 0 s1 x7_a1 0 -3.339257892086789e+20
Gr8_1_1 0 s1 x8_a1 0 -1.7910298432989577e+20
Gr9_1_1 0 s1 x9_a1 0 4.506784877043929e+19
Gr10_1_1 0 s1 x10_a1 0 3.9597230516354195e+19
Gd1_2 0 s1 p2 0 0.015233589495930736
Fd1_2 0 s1 V2 0.7616794747965369
Gr1_re_1_2 0 s1 x1_re_a2 0 350811259172198.2
Gr1_im_1_2 0 s1 x1_im_a2 0 -408226936661791.8
Gr2_re_1_2 0 s1 x2_re_a2 0 3.292931818574945e+16
Gr2_im_1_2 0 s1 x2_im_a2 0 -8826272378139080.0
Gr3_re_1_2 0 s1 x3_re_a2 0 -3.761624934881406e+17
Gr3_im_1_2 0 s1 x3_im_a2 0 -5.5083069489236264e+16
Gr4_1_2 0 s1 x4_a2 0 -7.358409653010233e+18
Gr5_1_2 0 s1 x5_a2 0 1.6864640568220176e+20
Gr6_re_1_2 0 s1 x6_re_a2 0 1.3346381913803874e+20
Gr6_im_1_2 0 s1 x6_im_a2 0 -2.3027232198972447e+20
Gr7_1_2 0 s1 x7_a2 0 -3.332757883499391e+20
Gr8_1_2 0 s1 x8_a2 0 -1.7875435321366194e+20
Gr9_1_2 0 s1 x9_a2 0 4.498012114682309e+19
Gr10_1_2 0 s1 x10_a2 0 3.952015082386974e+19
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.601919155564846e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 20245543472.490356
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -20245543472.490356
Rp1_im_im_a1 0 x1_im_a1 1.601919155564846e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 8.612400053107785e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 13213641415.918278
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -13213641415.918278
Rp2_im_im_a1 0 x2_im_a1 8.612400053107785e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.0730091155323881e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 8636061759.027063
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -8636061759.027063
Rp3_im_im_a1 0 x3_im_a1 1.0730091155323881e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.1391900698224346e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 2.3015424639043055e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 4.0196234289442713e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 992169532.6832905
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -992169532.6832905
Rp6_im_im_a1 0 x6_im_a1 4.0196234289442713e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 4.718569150884209e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 9.093719124757992e-10
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 3.441740413810969e-09
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 1.799075216785422e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.015233589495930736
Fd2_1 0 s2 V1 0.7616794747965369
Gr1_re_2_1 0 s2 x1_re_a1 0 350811482330652.1
Gr1_im_2_1 0 s2 x1_im_a1 0 -408227161534506.06
Gr2_re_2_1 0 s2 x2_re_a1 0 3.2929336960769356e+16
Gr2_im_2_1 0 s2 x2_im_a1 0 -8826276176286213.0
Gr3_re_2_1 0 s2 x3_re_a1 0 -3.7616270374437875e+17
Gr3_im_2_1 0 s2 x3_im_a1 0 -5.508310831690588e+16
Gr4_2_1 0 s2 x4_a1 0 -7.358413774325543e+18
Gr5_2_1 0 s2 x5_a1 0 1.6864650179421012e+20
Gr6_re_2_1 0 s2 x6_re_a1 0 1.3346389619160926e+20
Gr6_im_2_1 0 s2 x6_im_a1 0 -2.302724537848946e+20
Gr7_2_1 0 s2 x7_a1 0 -3.3327598002265096e+20
Gr8_2_1 0 s2 x8_a1 0 -1.7875445599768992e+20
Gr9_2_1 0 s2 x9_a1 0 4.498014706794334e+19
Gr10_2_1 0 s2 x10_a1 0 3.9520173644171485e+19
Gd2_2 0 s2 p2 0 0.023089389928013924
Fd2_2 0 s2 V2 1.1544694964006963
Gr1_re_2_2 0 s2 x1_re_a2 0 350129585608146.5
Gr1_im_2_2 0 s2 x1_im_a2 0 -407427572547536.7
Gr2_re_2_2 0 s2 x2_re_a2 0 3.2865256213697216e+16
Gr2_im_2_2 0 s2 x2_im_a2 0 -8809141392040506.0
Gr3_re_2_2 0 s2 x3_re_a2 0 -3.75430646934881e+17
Gr3_im_2_2 0 s2 x3_im_a2 0 -5.497576895088382e+16
Gr4_2_2 0 s2 x4_a2 0 -7.344092765018088e+18
Gr5_2_2 0 s2 x5_a2 0 1.683182492701325e+20
Gr6_re_2_2 0 s2 x6_re_a2 0 1.3320410241430748e+20
Gr6_im_2_2 0 s2 x6_im_a2 0 -2.29824241646173e+20
Gr7_2_2 0 s2 x7_a2 0 -3.3262725780247544e+20
Gr8_2_2 0 s2 x8_a2 0 -1.78406510676166e+20
Gr9_2_2 0 s2 x9_a2 0 4.489259203374125e+19
Gr10_2_2 0 s2 x10_a2 0 3.9443245608853e+19
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.601919155564846e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 20245543472.490356
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -20245543472.490356
Rp1_im_im_a2 0 x1_im_a2 1.601919155564846e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 8.612400053107785e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 13213641415.918278
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -13213641415.918278
Rp2_im_im_a2 0 x2_im_a2 8.612400053107785e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.0730091155323881e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 8636061759.027063
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -8636061759.027063
Rp3_im_im_a2 0 x3_im_a2 1.0730091155323881e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.1391900698224346e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 2.3015424639043055e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 4.0196234289442713e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 992169532.6832905
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -992169532.6832905
Rp6_im_im_a2 0 x6_im_a2 4.0196234289442713e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 4.718569150884209e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 9.093719124757992e-10
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 3.441740413810969e-09
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 1.799075216785422e-09
.ENDS s_equivalent
