* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0012443371906475924
Fd1_1 0 s1 V1 -0.062216859532379626
Gr1_re_1_1 0 s1 x1_re_a1 0 -2998142822.669401
Gr1_im_1_1 0 s1 x1_im_a1 0 -2897231060.9732184
Gr2_1_1 0 s1 x2_a1 0 58936263962.60342
Gr3_re_1_1 0 s1 x3_re_a1 0 -7094604606.076995
Gr3_im_1_1 0 s1 x3_im_a1 0 -3377074677.8046184
Gr4_1_1 0 s1 x4_a1 0 -34824175432.90298
Gr5_1_1 0 s1 x5_a1 0 -230090102.7379885
Gr6_1_1 0 s1 x6_a1 0 21698406.785549387
Gr7_1_1 0 s1 x7_a1 0 811131025.482683
Gd1_2 0 s1 p2 0 0.017874451197313204
Fd1_2 0 s1 V2 0.8937225598656602
Gr1_re_1_2 0 s1 x1_re_a2 0 10839628618.438993
Gr1_im_1_2 0 s1 x1_im_a2 0 -6654056445.211247
Gr2_1_2 0 s1 x2_a2 0 -80036126527.9003
Gr3_re_1_2 0 s1 x3_re_a2 0 -4878063562.126519
Gr3_im_1_2 0 s1 x3_im_a2 0 -38979091.11898597
Gr4_1_2 0 s1 x4_a2 0 46815124431.62531
Gr5_1_2 0 s1 x5_a2 0 240940776.3344384
Gr6_1_2 0 s1 x6_a2 0 -22385530.280966472
Gr7_1_2 0 s1 x7_a2 0 -844378270.195355
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.0589314406265122e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 17962032310.297535
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -17962032310.297535
Rp1_im_im_a1 0 x1_im_a1 1.0589314406265122e-10
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.911125134803672e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.1718137442043156e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 8411594534.503811
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -8411594534.503811
Rp3_im_im_a1 0 x3_im_a1 1.1718137442043156e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 9.412928548761002e-11
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 6.05489085060148e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.465980477679675e-09
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 3.1492576741210025e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.017874451197313204
Fd2_1 0 s2 V1 0.8937225598656602
Gr1_re_2_1 0 s2 x1_re_a1 0 10839628618.438986
Gr1_im_2_1 0 s2 x1_im_a1 0 -6654056445.211245
Gr2_2_1 0 s2 x2_a1 0 -80036126527.90047
Gr3_re_2_1 0 s2 x3_re_a1 0 -4878063562.126533
Gr3_im_2_1 0 s2 x3_im_a1 0 -38979091.11895781
Gr4_2_1 0 s2 x4_a1 0 46815124431.62551
Gr5_2_1 0 s2 x5_a1 0 240940776.33446366
Gr6_2_1 0 s2 x6_a1 0 -22385530.28097014
Gr7_2_1 0 s2 x7_a1 0 -844378270.1954018
Gd2_2 0 s2 p2 0 -0.001094149186671297
Fd2_2 0 s2 V2 -0.05470745933356484
Gr1_re_2_2 0 s2 x1_re_a2 0 -2800485356.511407
Gr1_im_2_2 0 s2 x1_im_a2 0 -2923846240.561573
Gr2_2_2 0 s2 x2_a2 0 57913199714.39494
Gr3_re_2_2 0 s2 x3_re_a2 0 -7010102949.229249
Gr3_im_2_2 0 s2 x3_im_a2 0 -3518403007.549418
Gr4_2_2 0 s2 x4_a2 0 -34617633012.43278
Gr5_2_2 0 s2 x5_a2 0 -230260415.06363538
Gr6_2_2 0 s2 x6_a2 0 21629742.815952834
Gr7_2_2 0 s2 x7_a2 0 814217340.0513278
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.0589314406265122e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 17962032310.297535
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -17962032310.297535
Rp1_im_im_a2 0 x1_im_a2 1.0589314406265122e-10
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.911125134803672e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.1718137442043156e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 8411594534.503811
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -8411594534.503811
Rp3_im_im_a2 0 x3_im_a2 1.1718137442043156e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 9.412928548761002e-11
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 6.05489085060148e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.465980477679675e-09
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 3.1492576741210025e-10
.ENDS s_equivalent
